US06974831B2
Preparation of 2-[[3-(2-amino-1,2-dioxoethyl)-2-ethyl-1-benzyl-1,6,7,8-tetrahydrocyclo-pent[g]indol-4-yl]oxy]acetic acid.
A solution 2-[[3-(2-amino-1,2-dioxoethyl)-2-ethyl-1-benzyl-1,6,7,8-tetrahydrocyclopent[g]indol-4-yl]oxy]acetic acid methyl ester (10 mg, 0.023 mmol) in 1:1 tetrahydrofuran/methanol (3 mL) was treated with 1 M aqueous lithium hydroxide solution (1.5 mL) The resulting mixture was warmed to 40° C. and stirred for 2 h. The mixture was concentrated in vacuo and treated with dilute hydrochloric acid. The resulting precipitate was collected via vacuum filtration. The solid was slurried with methanol, and the resulting solid collected via vacuum filtration to provide 5 mg (52%) of the title product as a white solid. 1H NMR (CDCl3) δ 7.25 (m, 3H), 7.03 (bs, 1H, —NH), 6.90 (d, J=6 Hz, 2H), 6.57 (s, 1H), 6.45 (bs, 1H, —NH), 5.50 (s, 2H), 4.77 (s, 2H), 2.90 (m, 6H), 2.04 (quintet, J=7 Hz, 2H), 1.18 (t, J=7 Hz, 3H); TOS MS ES+ exact mass calculated for C24H25N2O5 (p+1): m/z=421.1763. Found: 421.1767.

reactant | 2-[[3-(2-amino-1,2-dioxoethyl)-2-ethyl-1-benzyl-1,6,7,8-tetrahydrocyclopent[g]indol-4-yl]oxy]acetic acid methyl ester | 0.023 mmol, 10 mg | COC(COC1=C2C(=C(N(C2=C2C(=C1)CCC2)CC2=CC=CC=C2)CC)C(C(=O)N)=O)=O | C25H26N2O5
reactant | lithium hydroxide | 1 M, 1.5 mL | [OH-].[Li+]
solvent | tetrahydrofuran methanol | 3 mL | O1CCCC1.CO
product | 2-[[3-(2-amino-1,2-dioxoethyl)-2-ethyl-1-benzyl-1,6,7,8-tetrahydrocyclo-pent[g]indol-4-yl]oxy]acetic acid | 5 mg, 52% | NC(C(=O)C1=C(N(C2=C3C(=CC(=C12)OCC(=O)O)CCC3)CC3=CC=CC=C3)CC)=O | C24H24N2O5
